US04140678
Poly (octamethylene oxalate)
Using a similar system to that of Example 3, distilled diethyl oxalate (109.6 g, 0.750 mole), distilled 1,8-octanediol (113.6 g, 0.777 mole) and stannous octoate catalyst (0.33 M in toluene - 0.455 ml, 0.150 mmole) were mixed under a dry nitrogen atmosphere in a glass reactor equipped with a mechanical stirrer. A prepolymer was formed by heating the mixture at 120° C. for 12 hours under nitrogen while allowing the formed ethanol to distill. Prior to postpolymerization, the product was heated for 1 hour at 90° C. and 0.1 mm Hg. The postpolymerization of the stirred polymer melt was completed by heating at 110°, 135°, 150°, 170° and 200° C. for 3.5, 2.5, 4.5, 0.5 and 5 hours, respectively at 0.1 mm Hg. The polymer was cooled, quenched in liquid nitrogen, isolated, ground and dried in vacuo at room temperature. The polymer was then heated at 60° C. in vacuo for one hour and finally at 200° C. for 6 hours to yield the final product.

reactant | diethyl oxalate | 0.750 mole, 109.6 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 1,8-octanediol | 0.777 mole, 113.6 g | C(CCCCCCCO)O | C8H18O2
catalyst | stannous octoate | 0.150 mmole, 0.33 M, 0.455 ml | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
solvent | ethanol | C(C)O | C2H6O
product | octamethylene oxalate | C1(C(=O)OCCCCCCCCO1)=O | C10H16O4
